US04864021
Preparation of 3-benzoyl-5'-O-benzoyl-3'-O-(4-chlorobenzyl)-2'-deoxy-5-fluorouridine
A 0.23 ml quantity of benzoyl chloride was added to a solution of 0.25 g of 3'-O-(4-chlorobenzyl)-2'-deoxy-5-fluorouridine in pyridine. The mixture was stirred at room temperature for 2 hours. The solvent was distilled off. To the residue were added ethyl acetate and water to separate the ethyl acetate layer. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated. The concentrate was subjected to silica gel column chromatography using chloroform as an eluent, giving 0.27 g of the title compound in a yield of 70%.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3'-O-(4-chlorobenzyl)-2'-deoxy-5-fluorouridine | 0.25 g | ClC1=CC=C(CO[C@H]2C[C@@H](O[C@@H]2CO)N2C(=O)NC(=O)C(=C2)F)C=C1 | C16H16ClFN2O5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-benzoyl-5'-O-benzoyl-3'-O-(4-chlorobenzyl)-2'-deoxy-5-fluorouridine | 0.27 g, yield of 70% | C(C1=CC=CC=C1)(=O)N1C(N([C@H]2C[C@H](OCC3=CC=C(C=C3)Cl)[C@@H](COC(C3=CC=CC=C3)=O)O2)C=C(C1=O)F)=O | C30H24ClFN2O7
